US07202364B2
A mixture of 1-chloro-7-trifluoromethyl-2-acetamidonaphthalene (700 mg, 2.43 mmol), water (3 mL) and concentrated sulfuric acid (3 mL in ethanol (6 mL) is heated to reflux temperature under a N2 atmosphere for 1 hour. After cooling to room temperature, the mixture is extracted with EtOAc. The extracts are washed with water, brine, dried (Na2SO4) and concentrated. Flash chromatography on silica gel (3:1 hexanes/EtOAc) gives 1-chloro-7-trifluoromethyl-2-aminonaphthalene as a white solid.

reactant | 1-chloro-7-trifluoromethyl-2-acetamidonaphthalene | 2.43 mmol, 700 mg | ClC1=C(C=CC2=CC=C(C=C12)C(F)(F)F)NC(C)=O | C13H9ClF3NO
reactant | water | 3 mL | O | H2O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 1-chloro-7-trifluoromethyl-2-aminonaphthalene | ClC1=C(C=CC2=CC=C(C=C12)C(F)(F)F)N | C11H7ClF3N
